US04258187
A solution of 100 g (0.43 mole) of 2-amino-5-chlorobenzophenone and 40 g (0.7 mole) of methyl isocyanate in 300 ml of methylene chloride was refluxed for two days and then cooled. The solid portion of the reaction mixture was collected on a filter and washed with methylene chloride to give 119.8 g (96% yield) of 6-chloro-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone as a white crystalline powder: mp 296°-298° (dec); 1H nmr (DMSO-d6), δ 2.66 ppm (s, 3H), 6.8-7.6 ppm (m, 8H) and 10.0 ppm (s, NH); 13C nmr (DMSO-d6) δ 86.6 ppm (for COH) and 151.4 ppm (for NHCO).

reactant | 2-amino-5-chlorobenzophenone | 0.43 mole, 100 g | NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C13H10ClNO
reactant | methyl isocyanate | 0.7 mole, 40 g | CN=C=O | C2H3NO
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-3,4-dihydro-4-hydroxy-3-methyl-4-phenyl-2(1H)-quinazolinone | 119.8 g, 96% yield | ClC=1C=C2C(N(C(NC2=CC1)=O)C)(C1=CC=CC=C1)O | C15H13ClN2O2
